US04894377
37.6 g of 3-(4-benzyloxyindol-3-yl)-2-amino-5-oxahexanoic acid ethyl ester is dissolved in 200 ml of ethyl acetate. Under vigorous agitation, a solution of 10.8 g of glyoxylic acid monohydrate in 120 ml of water is added dropwise thereto. The reaction mixture is subsequently adjusted to pH 4 with 10% potassium carbonate solution and stirred for 14 hours at room temperature. The thus-precipitated yellow crystallized product is vacuum-filtered, washed with ethyl acetate, and dried, thus obtaining 20.3 g of 5-benzyloxy-4-methoxymethyl-3-ethoxy-carbonyl-1,2,3,4-tetrahydro-β-carboline-1-carboxylic acid as light-yellow crystals, mp 139°-142°C.

reactant | 3-(4-benzyloxyindol-3-yl)-2-amino-5-oxahexanoic acid ethyl ester | 37.6 g | C(C)OC(C(C(COC)C1=CNC2=CC=CC(=C12)OCC1=CC=CC=C1)N)=O | C22H26N2O4
reactant | glyoxylic acid monohydrate | 10.8 g | O.C(C=O)(=O)O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 120 ml | O | H2O
product | 5-benzyloxy-4-methoxymethyl-3-ethoxy-carbonyl-1,2,3,4-tetrahydro-β-carboline-1-carboxylic acid | 20.3 g | C(C1=CC=CC=C1)OC1=C2C=3C(C(NC(C3N=C2C=CC1=C=O)C(=O)O)OCC)COC | C24H24N2O6
